US08809267B2
3-cyclopropoxybenzaldehyde (7.51 g, 46.3 mmol) was dissolved in pyridine (195 mL) then malonic acid (19.3 g, 185 mmol) and piperidine (6.86 mL, 69.5 mmol) were added. The reaction was stirred at reflux for 2 hr then concentrated. The residue was poured on to ice cold 6N HCl and decanted to collect the solution. The solution was diluted with DCM and extracted with DCM. The extract and the solid from the water layer were combined and basified with 2N NaOH. The basic solution was washed with DCM, acidified and filtered to give 3-(3-cyclopropoxy-phenyl)-acrylic acid as white solid: 1H NMR (CDCl3, 300 MHz) δ 7.77 (d, 1H), 7.36-7.09 (m, 4H), 6.44 (d, 1H), 3.77 (m, 1H), 0.81 (m, 4H).

reactant | 3-cyclopropoxybenzaldehyde | 46.3 mmol, 7.51 g | C1(CC1)OC=1C=C(C=O)C=CC1 | C10H10O2
reactant | malonic acid | 185 mmol, 19.3 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 69.5 mmol, 6.86 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 195 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-cyclopropoxy-phenyl)-acrylic acid | C1(CC1)OC=1C=C(C=CC1)C=CC(=O)O | C12H12O3
